US03976645
Reaction of acrylonitrile with 3-hydroxy-3-(m-trifluoromethylphenyl)-indolin-2-one by a process analogous to that of Example 1 gives 1-(2-cyanoethyl)-3-hydroxy-3-(m-trifluoromethylphenyl)indolin-2-one. Hydrogenation of the 1-(2-cyanoethyl)-3-hydroxy-3-(m-trifluoromethylphenyl)indolin-2-one gives 1-(3-aminopropyl)-3-hydroxy-3-(m-trifluoromethylphenyl)indolin-2-one. Cyclodehydration of 1-(3-aminopropyl)-3-hydroxy-3-(m-trifluoromethylphenyl)indolin-2-one by a procedure analogous to that of Example 3 gives 10-(m-trifluoromethylphenyl)-2,3,5,10-tetrahydropyrimido [1,2-a] indol-10-ol.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | 3-hydroxy-3-(m-trifluoromethylphenyl)-indolin-2-one | OC1(C(NC2=CC=CC=C12)=O)C1=CC(=CC=C1)C(F)(F)F | C15H10F3NO2
product | 1-(2-cyanoethyl)-3-hydroxy-3-(m-trifluoromethylphenyl)indolin-2-one | C(#N)CCN1C(C(C2=CC=CC=C12)(C1=CC(=CC=C1)C(F)(F)F)O)=O | C18H13F3N2O2
